US08217069B2
9-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-(2-hydroxyacetyl-amino)-6-methoxy-7,9-dihydro-8H-purin-8-one
To a mixture of 2-amino-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one (40 mg) and N,N-diisopropyl-ethylamine (0.15 mL) in ethyl acetate (4 mL) was added acetoxyacetyl chloride (0.078 mL), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in methanol (1 mL)-tetrahydrofuran (2 mL). To the solution was added sodium methoxide (28% methanol solution, 0.05 mL), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added 1 mol/L hydrochloric acid, and the mixture was poured into a saturated aqueous ammonium chloride solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−ethyl acetate) to give the title compound (4 mg).

reactant | 2-amino-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one | 40 mg | NC1=NC(=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)=O)OC | C21H18ClF2N5O5
reactant | N,N-diisopropyl-ethylamine | 0.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetoxyacetyl chloride | 0.078 mL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | 9-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-(2-hydroxyacetyl-amino)-6-methoxy-7,9-dihydro-8H-purin-8-one | 4 mg | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)NC(CO)=O | C23H20ClF2N5O7
